US05834501
5-[4-{3-(3-Methylimidazo[5,4-b]pyridin-2-yl)-propoxy}benzyl]-3-triphenylmethyl-thiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 750 mg of 2-(3-hydroxy-propyl)-3-methylimidazo[5,4-b]pyridine (prepared as described in Preparation 34), 1.83 g of 5-(4-hydroxy-benzyl)-3-triphenylmethylthiazolidine-2,4-dione, 0.98 ml of tributylphosphine, 990 mg of 1,1'-(azodicarbonyl)di-piperdine and 20 ml of toluene were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of hexane and ethyl acetate in ratios ranging from 1:1 to 0:1 by volume as the eluent, to give 550 mg of the title compound, melting at 76°-81° C.

reactant | 2-(3-hydroxy-propyl)-3-methylimidazo[5,4-b]pyridine | 750 mg | OCCCC=1N(C2=NC=CC=C2N1)C | C10H13N3O
reactant | 5-(4-hydroxy-benzyl)-3-triphenylmethylthiazolidine-2,4-dione | 1.83 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 0.98 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)di-piperdine | 990 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[4-{3-(3-Methylimidazo[5,4-b]pyridin-2-yl)-propoxy}benzyl]-3-triphenylmethyl-thiazolidine-2,4-dione | CN1C(=NC=2C1=NC=CC2)CCCOC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C39H34N4O3S
